US07772268B2
100 mg (0.59 mmol) of 6-chloro-1H-indazol-3-ol were dissolved in 5 ml of DMF. Addition of 83 mg (0.65 mmol) of 1-isocyanatohexane was followed by stirring at room temperature for 1.5 h and at 50° C. for 1 h, concentration and purification by preparative HPLC (PR18, acetonitrile/water 0.1% TFA). Yield: 17 mg (7%), M+H+: 296.14, 6-chloro-3-oxo-3H-indazole-1,2-dicarboxylic acid bishexylamide and 12 mg (5%) of 6-chloro-1-hexylcarbamoyl-1H-indazol-3-yl hexylcarbamate. It was additionally possible to isolate 6-chloro-3-hydroxyindazole-1-carboxylic acid hexylamide as compound not according to the invention.

reactant | 6-chloro-1H-indazol-3-ol | 0.59 mmol, 100 mg | ClC1=CC=C2C(=NNC2=C1)O | C7H5ClN2O
reactant | 1-isocyanatohexane | 0.65 mmol, 83 mg | N(=C=O)CCCCCC | C7H13NO
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 6-chloro-3-hydroxyindazole-1-carboxylic acid hexylamide | C(CCCCC)NC(=O)N1N=C(C2=CC=C(C=C12)Cl)O | C14H18ClN3O2
